US07851469B2
6-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for Example 18, 6-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-nicotinic acid methyl ester (100 mg, 0.24 mmol), was converted, using 4-aminotetrahydropyran instead of cyclopropanemethylamine, to the title compound (110 mg, 86%) which was obtained as a white solid. MS: m/e=484.2 [M+H]+.

reactant | 6-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-nicotinic acid methyl ester | 0.24 mmol, 100 mg | COC(C1=CN=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C20H13F3N4O3
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-N-(tetrahydro-pyran-4-yl)-nicotinamide | 110 mg, 86% | C1(=CC=CC=C1)C1=NOC(=C1C=1N=CN(C1)C1=NC=C(C(=O)NC2CCOCC2)C=C1)C(F)(F)F | C24H20F3N5O3
